US07220856B2
Preparation of 4-(7-Chloro-4-quinolinyl)-N-(3-oxocycloheptyl)-1-piperazinecarboxamide
To a stirred solution of 4-(7-chloro-4-quinolinyl)-N-(3-hydroxycycloheptyl)-1-piperazinecarboxamide (300 mg, 0.744 mmol) in CH2Cl2 (20 mL), the Dess-Martin reagent (348 mg, 0.82 mmol) was added at rt. After 3 h, the reaction mixture was quenched with 1 g of Na2S2O3 and 5 mL of NaHCO3 (sat.). The reaction mixture was extracted with CH2Cl2, washed with brine, and dried over Na2SO4. Concentration in vacuo followed by flash chromatography afforded the title product. LC-MS: 401 (M++1). 1H NMR (CDCl3) δ 8.78 (d, 1H), 8.05 (s, 1H), 7.95 (d, 1H), 7.45 (d, 1H), 6.85 (d, 1H), 4.70 (m, 1H), 4.25 (m, 1H), 3.60 (m, 4H), 3.25 (m, 4H), 3.00 (m, 1H), 2.45–2.65 (m, 3H), 1.70–1.90 (m, 6H).

reactant | 4-(7-chloro-4-quinolinyl)-N-(3-hydroxycycloheptyl)-1-piperazinecarboxamide | 0.744 mmol, 300 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CC(CCCC1)O | C21H27ClN4O2
reactant | Dess-Martin reagent | 0.82 mmol, 348 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-(7-Chloro-4-quinolinyl)-N-(3-oxocycloheptyl)-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CC(CCCC1)=O | C21H25ClN4O2
